US07893056B2
A mixture of 4-[1-(diphenylmethyl)-3-methyl-3-azetidinyl]morpholine (1.05 g, 3.26 mmol), 10% Pd(OH)2 (0.12 g) in ethanol (30 ml) and 1N HCl (7 ml) was treated with H2 at 60 psi overnight. The catalyst was removed by filtration, and the solvent was evaporated under vacuum. The residue was washed with benzene (3×5 ml) and dried under high vacuum to provide 4-(3-methyl-3-azetidinyl)morpholine dihydrochloride (0.52 g, 74.9%). LCMS: (M+H)+ 156.9.

reactant | 4-[1-(diphenylmethyl)-3-methyl-3-azetidinyl]morpholine | 3.26 mmol, 1.05 g | C1(=CC=CC=C1)C(N1CC(C1)(C)N1CCOCC1)C1=CC=CC=C1 | C21H26N2O
reactant | HCl | 1N, 7 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 0.12 g | [OH-].[OH-].[Pd+2]
product | 4-(3-methyl-3-azetidinyl)morpholine dihydrochloride | 0.52 g, 74.9% | Cl.Cl.CC1(CNC1)N1CCOCC1 | InChI=1S/C8H16N2O.2ClH/c1-8(6-9-7-8)10-2-4-11-5-3-10;;/h9H,2-7H2,1H3;2*1H
